US05532402
Following the method of Giordano, C, et al. [J. Org. Chem., 54, 1470(1989)], 100 mg of dimethyl (1R,2S)-1-bromo-2-hydroxypropylphosphonate were added to 1 ml of a 49% aqueous solution of hydrobromic acid, and the resulting mixture was stirred for 14 hours at 95° C. The solvent was distilled out of the reaction mixture to obtain (1R,2S)-1-bromo-2-hydroxypropylphosphonic acid in the form of a colorless oil. The result of analysis of the thus-obtained compound by 1H-NMP is described below.

reactant | dimethyl (1R,2S)-1-bromo-2-hydroxypropylphosphonate | 100 mg | Br[C@H]([C@H](C)O)P(OC)(OC)=O | C5H12BrO4P
reactant | hydrobromic acid | Br | BrH
product | (1R,2S)-1-bromo-2-hydroxypropylphosphonic acid | Br[C@H]([C@H](C)O)P(O)(O)=O | C3H8BrO4P
